US05985306
4-(4-Acetoxyphenyl)-7-methoxy-3-(4-(trifluoromethyl)phenyl)coumarin
A mixture of (2-hydroxy-4-methoxyphenyl)-(4-hydroxyphenyl)-methanone (7.33 g, 30.0 mmol), acetic anhydride (15 ml), triethylamine (5.5 ml, 39.5 mmol), and 4-(trifluoromethyl)phenyl acetic acid (4.63 g, 30.0 mmol) was stirred at 135° C. for 18 h, and the resulting orange coloured solution poured into water (120 ml) and stirred for 3 h. The resulting mixture of aqueous solution plus sticky solid was diluted with ethyl acetate (300 ml) to dissolve the solid, and the organic layer separated. The aqueous phase was further extracted with ethyl acetate (2×100 ml). The combined organic extracts were washed with water, saturated sodium chloride solution, dried over sodium sulfate and evaporated to give a yellow/orange solid, which was recrystallised from 6:1 ethanol/water (350 ml) to give the product as a colourless solid, which was vacuum dried.

reactant | (2-hydroxy-4-methoxyphenyl)-(4-hydroxyphenyl)-methanone | 30.0 mmol, 7.33 g | OC1=C(C=CC(=C1)OC)C(=O)C1=CC=C(C=C1)O | C14H12O4
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 39.5 mmol, 5.5 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(trifluoromethyl)phenyl acetic acid | 30.0 mmol, 4.63 g | FC(C1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 120 ml | O | H2O
product | 4-(4-Acetoxyphenyl)-7-methoxy-3-(4-(trifluoromethyl)phenyl)coumarin | C(C)(=O)OC1=CC=C(C=C1)C1=C(C(OC2=CC(=CC=C12)OC)=O)C1=CC=C(C=C1)C(F)(F)F | C25H17F3O5
